US08106043B2
tert-Butyl ethyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate:
A suspension of tert-butyl ethyl(2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate (7 g, 19.92 mmol) and Pd—C (2.11 g, 1.992 mmol, 10% wt) in anhydrous EtOH (100 mL) was purged with hydrogen gas. The reaction was stirred at room temperature for 16 hours under a hydrogen atmosphere (balloon pressure). The reaction mixture was filtered through a Celite pad and washed with EtOH (50 mL). The filtrate containing tert-butyl 2-(7-amino-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl(ethyl)carbamate was treated with methyl thiophene-2-carbimidothioate hydroiodide (11.36 g, 39.8 mmol) and stirred overnight at room temperature. The reaction was concentrated and then partitioned between saturated NaHCO3 solution (150 mL) and CH2Cl2 (75 mL). The mixture was transferred to a separatory funnel, and the product was extracted into CH2Cl2 (2×100 mL). The combined organic layers were dried (Na2SO4) and concentrated. The residue was subjected to flash chromatography on silica gel using a sequence of eluents (CH2Cl2; 1:99 (2M NH3 in MeOH):CH2Cl2; 1.75:98.25 (2M NH3 in MeOH):CH2Cl2; and 2.5:97.5 (2M NH3 in MeOH):CH2Cl2) to give a brown solid (4 g, 46.7%). 1H-NMR (CDCl3) δ 7.43-7.41 (m, 2H), 7.11-7.05 (m, 1H), 6.72-6.69 (m, 1H), 6.54-6.51 (m, 2H), 4.23-4.20 (m, 2H), 3.39-3.25 (m, 8H), 1.47 (s, 9H), 1.11-1.10 (m, 3H); ESI-MS (m/z, %): 431 (MH+, 100).

reactant | tert-butyl ethyl(2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate | 19.92 mmol, 7 g | C(C)N(C(OC(C)(C)C)=O)CCN1C2=C(OCC1)C=C(C=C2)[N+](=O)[O-] | C17H25N3O5
reactant | methyl thiophene-2-carbimidothioate hydroiodide | 39.8 mmol, 11.36 g | I.S1C(=CC=C1)C(=N)SC
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd—C | 1.992 mmol, 2.11 g | [Pd] | Pd
product | tert-Butyl ethyl(2-(7-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate | 4 g, 46.7% | C(C)N(C(OC(C)(C)C)=O)CCN1C2=C(OCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C22H30N4O3S
